US05028606
A solution of 15 parts of 4-[1-(1H-imidazol-1-yl)-2-methylpropyl]-1,2-benzenediamine and 12.5 parts of diethyl 2-oxo-1,3-propanedioate in 80 parts of ethanol was stirred for 2 hours at reflux temperature. The reaction mixture was evaporated and the residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of acetonitrile and ethanol. The product was filtered off and dried, yielding 3.1 parts (14.0%) of ethyl 3,4-dihydro-7-[1-(1H-imidazol-1-yl)-2-methylpropyl]-3-oxo-2-quinoxalinecarboxylate; mp. 229.7° C. (comp. 107).

reactant | 4-[1-(1H-imidazol-1-yl)-2-methylpropyl]-1,2-benzenediamine | N1(C=NC=C1)C(C(C)C)C=1C=C(C(=CC1)N)N | C13H18N4
reactant | diethyl 2-oxo-1,3-propanedioate | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
solvent | ethanol | C(C)O | C2H6O
product | ethyl 3,4-dihydro-7-[1-(1H-imidazol-1-yl)-2-methylpropyl]-3-oxo-2-quinoxalinecarboxylate | 14.0% | N1(C=NC=C1)C(C(C)C)C1=CC=C2NC(C(=NC2=C1)C(=O)OCC)=O | C18H20N4O3
